US09353107B2
Step-ii: 5-bromo-2-(2-(dimethylamino)ethoxy)aniline
Zinc dust (4.52 g, 69.2 mmol) was added to a stirred solution of 2-(4-bromo-2-nitrophenoxy)-N,N-dimethylethanamine (4 g, 13.8 mmol), ammonium chloride (3.7 g, 69.2 mmol), THF/Water (40/40 mL) at RT. Reaction completed in 4 hours. The RM was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with water, dried over sodium sulfate, concentrated to get the crude mass which was washed with hexanes to afford titled compound 1.85 g (51.67% yield) as solid. 1H NMR (DMSO-d6, 300 MHz): δ 6.74-6.70 (m, 2H), 6.59-6.56 (m, 1H), 4.99 (s, 2H), 3.97-3.93 (t, 2H), 2.59-2.56 (t, 2H), 2.18 (s, 6H). LCMS: m/z=260.8 (M+2).

reactant | 2-(4-bromo-2-nitrophenoxy)-N,N-dimethylethanamine | 13.8 mmol, 4 g | BrC1=CC(=C(OCCN(C)C)C=C1)[N+](=O)[O-] | C10H13BrN2O3
reactant | ammonium chloride | 69.2 mmol, 3.7 g | [Cl-].[NH4+]
catalyst | Zinc | 69.2 mmol, 4.52 g | [Zn] | Zn
solvent | THF Water | 40 mL | C1CCOC1.O
product | 5-bromo-2-(2-(dimethylamino)ethoxy)aniline | 1.85 g, 51.67% yield | BrC=1C=CC(=C(N)C1)OCCN(C)C | C10H15BrN2O
